US07211572B2
9-Benzyloxy-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (30 mg) and 3-phenylpropyl bromide (0.02 ml) were added to dimethyl sulfoxide (1 ml), and sodium hydride (7 mg) was added with stirring. After stirring for 20 min, 5% aqueous potassium hydrogen sulfate solution was added and the mixture was extracted twice with ethyl acetate. The ethyl acetate layer was washed with brine, dried, concentrated, and subsequently purified by silica gel thin layer chromatography (chloroform-methanol=15:1) to give 9-benzyloxy-2-(3-phenylpropyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (27 mg).

reactant | 9-Benzyloxy-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 30 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(NCC2)=O)C=2SC=CN2)=O | C18H15N3O3S
reactant | 3-phenylpropyl bromide | 0.02 ml | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | sodium hydride | 7 mg | [H-].[Na+]
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 9-benzyloxy-2-(3-phenylpropyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 27 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CCCC2=CC=CC=C2)=O)C=2SC=CN2)=O | C27H25N3O3S
